US08431563B2
A 20 mL vial was charged with (R)-2-methylpiperazine (0.357 g, 3.56 mmol, Sigma-Aldrich, St. Louis, Mo.), 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (1.00 g, 3.10 mmol, Bioorg. Med. Chem. Lett. 2002, 12, 3009), sodium tert-butoxide (0.625 g, 6.50 mmol) and 6 mL of toluene. To this was added dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine (RuPhos) (0.022 g, 0.046 mmol, Strem Chemical Inc, Newburyport, Mass.), tris(dibenzylideneacetone)dipalladium (0) (0.014 g, 0.015 mmol, Strem Chemical Inc, Newburyport, Mass.). The vial was sealed in heated at 100° C. for 12 h. After that time, the mixture was diluted with water (20 mL) and extracted with EtOAc (2×50 mL). The combined extracts were dried (MgSO4) and concentrated to give 1,1,1,3,3,3-hexafluoro-2-(4-((3R)-3-methyl-1-piperazinyl)phenyl)-2-propanol (0.950 g) as an oil which was used without purification.

reactant | (R)-2-methylpiperazine | 3.56 mmol, 0.357 g | C[C@H]1NCCNC1 | C5H12N2
reactant | 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 3.10 mmol, 1.00 g | BrC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
reactant | sodium tert-butoxide | 6.50 mmol, 0.625 g | CC(C)([O-])C.[Na+]
reactant | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.015 mmol, 0.014 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine | 0.046 mmol, 0.022 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
product | 1,1,1,3,3,3-hexafluoro-2-(4-((3R)-3-methyl-1-piperazinyl)phenyl)-2-propanol | 0.950 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1C[C@H](NCC1)C)(F)F | C14H16F6N2O
